US06825188B2
d) Methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxycinnamate
A solution of 3-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-bromoanisole (48.19 g, 121 mmol), methyl acrylate (55 mL, 605 mmol), palladium acetate (1.36 g, 6.1 mmol), tri-o-tolylphosphine (3.69 g, 12 mol), and diisopropylethylamine (49 mL, 278 mmol) in acetonitrile (200 mL) was deoxygenated (3×evacuation/argon purge cycles), then was heated to reflux under argon in oil bath set at 80° C. After 6 hr additional palladium acetate (1.36 g, 6.1 mmol) and tri-o-tolylphosphine (3.69 g, 12 mmol) were added and the reaction was stirred under reflux for an additional 18 h. The reaction was concentrated to dryness, and the residue was taken up in 1:1 Et2O/petroleum ether (300 mL) and allowed to stand for 4 h. A gray-colored precipitate was filtered off and washed with a small volume of 1:1 Et2O/petroleum ether(˜100 mL). The orangish-red filtrate was concentrated and purified by flash chromatography on silica gel (15% ethyl acetate/hexanes). The resulting residue was taken up in hexane, and the mixture was allowed to stand for 2 hr, then was filtered to remove a yellow precipitate. Concentration of the filtrate left the title compound (45.85 g, 94%) as a yellow oil: TLC (20% EtOAc/hexane) Rf 0.50; 1H NMR (400 MHz, CDCl3) δ 7.84 (d, J=16 Hz, 1H), 7.57 (d, J=9 Hz, 1H), 6.86 (dd, 1H), 6.74 and 6.72 (2s, 1H), 6.26 (d, J=16 Hz, 1H), 4.74 and 4.70 (2s, 2H), 3.83 (s, 3H), 3.79 (s, 3H), 3.80 and 3.66 (2m, 2H), 1.51 and 1.45 (2s, 9H).

reactant | 3-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-bromoanisole | 121 mmol, 48.19 g | C(C)(C)(C)OC(=O)N(CC(F)(F)F)CC=1C=C(C=CC1Br)OC | C15H19BrF3NO3
reactant | methyl acrylate | 605 mmol, 55 mL | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 12 mol, 3.69 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropylethylamine | 278 mmol, 49 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tri-o-tolylphosphine | 12 mmol, 3.69 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 6.1 mmol, 1.36 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 6.1 mmol, 1.36 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-[N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methoxycinnamate | C(C)(C)(C)OC(=O)N(CC(F)(F)F)CC1=C(C=CC(=O)OC)C=CC(=C1)OC | C19H24F3NO5
